US07375115B2
2-[1-[2-(3,5-Diacetoxymethylphenyoxy)ethyl]cyclohexyl]ethanol
To a solution of 1-[2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethoxy]-3,5-diacetoxymethylbenzene (1.13 g) dissolved in tetrahydrofuran (7 mL) was added a 1M tetrabutylammonium fluoride/tetrahydrofuran solution (2.8 mL) dropwise at room temperature. The solution was stirred for 15 hours. A 10% aqueous citric acid solution was added to the solution, and it was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was then concentrated under reduced pressure. The resulting residue was purified by chromatography [silica gel, hexane:ethyl acetate (1:1)] to give the title compound (439 mg).

reactant | 1-[2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethoxy]-3,5-diacetoxymethylbenzene | 1.13 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCOC1=CC(=CC(=C1)COC(C)=O)COC(C)=O | C38H50O6Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1M, 2.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 2-[1-[2-(3,5-Diacetoxymethylphenyoxy)ethyl]cyclohexyl]ethanol | 439 mg | C(C)(=O)OCC=1C=C(C=C(C1)COC(C)=O)OCCC1(CCCCC1)CCO | C22H32O6
